US07232903B2
In a 50 mL volume glass vessel equipped with a stirrer and a thermometer were placed 5.0 g (36.5 mmol) of anthranilic acid and 20 mL (156 mmol) of 15 wt. % ammonia methanol solution. The reaction was carried out for 2 hours at room temperature. After the reaction was complete, the reaction mixture was concentrated under reduced pressure, to obtain 5.0 g (isolated yield: 94%) of ammonium anthranilate as white solid.

reactant | anthranilic acid | 36.5 mmol, 5.0 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | ammonia methanol | CO.N
product | ammonium anthranilate | 5.0 g, yield: 94% | C(C=1C(N)=CC=CC1)(=O)[O-].[NH4+] | InChI=1S/C7H7NO2.H3N/c8-6-4-2-1-3-5(6)7(9)10;/h1-4H,8H2,(H,9,10);1H3
